US06150373
An ice-cooled solution of 100 mg (0.27 mmol) of 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one in 6 ml of dimethylformamide was treated with 22 mg (0.54 mmol) of sodium hydride (60% w/w). After 30 minutes the mixture was treated with 50 mg (0.3 mmol) of picolyl chloride hydrochloride and then heated to 90° C. for 2 hours and to 100° C. for a further hour. The mixture was evaporated and the residue was treated with 30 ml of dichloromethane and 30 ml of water. The phases were separated and the organic phase was washed with 30 ml of water, dried over magnesium sulfate, filtered and evaporated to give 60 mg (48%) of 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydro-1-[(3-pyridyl)methyl]pyrimido[4,5-d]pyrimidin-2(1H)-one as a yellow solid.

reactant | 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 0.27 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)N1C(NC2=NC(=NC=C2C1)S(=O)(=O)C)=O | C13H10Cl2N4O3S
reactant | sodium hydride | 0.54 mmol, 22 mg | [H-].[Na+]
reactant | picolyl chloride hydrochloride | 0.3 mmol, 50 mg | Cl.N1=C(C=CC=C1)CCl
reactant | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydro-1-[(3-pyridyl)methyl]pyrimido[4,5-d]pyrimidin-2(1H)-one | 60 mg, 48% | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)CC=1C=NC=CC1)=O | C19H15Cl2N5O3S
